US04137402
B. 1-{[5-(p-Nitrophenyl)furfurylidene]amino}hydantoin 1,3-dimethylimidazolium Salt
An ion exchange column of Amberlite® IRA-410 resin (85 ml, 110 meq. on a 2.5 cm × 30 cm column) was activated by elution with 170 ml of 2N NaOH followed by washing with water to neutrality and then with 300 ml of methanol. A solution of 12.3 g (0.055 mole) of 1,3-dimethylimidazolium iodide (Part A) in 100 ml of methanol was placed on the basic anion exchange resin and eluted with methanol until the pH returned to neutral. The methanol solution of the quaternary hydroxide was collected in a flask containing 15.7 g (0.05 mole) of dantrolene suspended in 100 ml of methanol. The mixture was stirred for 60 min., then filtered. The methanol filtrate was concentrated in vacuo to dryness. The residue was triturated with 1000 ml of isopropanol and filtered, hot. The red-orange insoluble quaternary salt was then recrystallized from 100 ml of methanol, with Darco, to yield 12 g (53%), m.p. 172° -175° C.

reactant | 1,3-dimethylimidazolium iodide | 0.055 mole, 12.3 g | [I-].C[N+]1=CN(C=C1)C
reactant | dantrolene | 0.05 mole, 15.7 g | C1=CC(=CC=C1C2=CC=C(O2)/C=N/N3CC(=O)NC3=O)[N+](=O)[O-] | C14H10N4O5
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 1-{[5-(p-Nitrophenyl)furfurylidene]amino}hydantoin 1,3-dimethylimidazolium Salt | C[N+]1=CN(C=C1)C.[N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=NN2C(=O)NC(=O)C2)O1 | InChI=1S/C14H10N4O5.C5H9N2/c19-13-8-17(14(20)16-13)15-7-11-5-6-12(23-11)9-1-3-10(4-2-9)18(21)22;1-6-3-4-7(2)5-6/h1-7H,8H2,(H,16,19,20);3-5H,1-2H3/q;+1
